US05723479
To a solution of (E)-3-[5-(5-methyl-2-phenyl-4-oxazolylmethoxy)-2-benzofuranyl]-2-propen-1-ol (2.00 g) in tetrahydrofuran (100 ml), palladium-carbon (5%, 0.30 g) was added, followed by catalytic reduction at room temperature and under an atmospheric pressure of 1 atm. After the catalyst was filtered off, the filtrate was concentrated to yield 3-[5-(5-methylphenyl-4-oxazolylmethoxy)-2-benzofuranyl]propanol (yield 93%), which was then recrystallized from acetone-isopropyl ether to yield colorless prisms having a melting point of 101° to 102° C.

reactant | (E)-3-[5-(5-methyl-2-phenyl-4-oxazolylmethoxy)-2-benzofuranyl]-2-propen-1-ol | 2.00 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC=1C=CC2=C(C=C(O2)/C=C/CO)C1 | C22H19NO4
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | palladium-carbon | 0.30 g | [C].[Pd]
product | 3-[5-(5-methylphenyl-4-oxazolylmethoxy)-2-benzofuranyl]propanol | yield 93% | CC=1C=CC=C(C1)C(OC=1C=CC2=C(C=C(O2)CCCO)C1)C=1N=COC1 | C22H21NO4
